US07199147B2
Triethylamine (1.6 ml, 30.0 mmol) was added to a solution of 5-aminoindazole (2.0 g, 15.0 mmol) in tetrahydrofuran (50 ml) at room temperature, followed by adding thereto 3-chloropropionyl chloride (1.43 ml, 15.0 mmol) at 0° C., and the resulting mixture was stirred at room temperature for 30 minutes. Then, the reaction solution was distilled under reduced pressure to remove the solvent, and the resulting residue was suspended in ethanol and stirred. Thereafter, the solid was collected by filtration and dried under reduced pressure to obtain 3-chloro-N-(1H-indazol-5-yl)propanamide (1.49 g, 44%).

reactant | Triethylamine | 30.0 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | 5-aminoindazole | 15.0 mmol, 2.0 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | 3-chloropropionyl chloride | 15.0 mmol, 1.43 ml | ClCCC(=O)Cl | C3H4Cl2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-chloro-N-(1H-indazol-5-yl)propanamide | 1.49 g, 44% | ClCCC(=O)NC=1C=C2C=NNC2=CC1 | C10H10ClN3O
